* source LAB1_PROJECT
R_R1         N10205 N10212  10V TC=0,0 
R_R2         0 N10212  20V TC=0,0 
V_V1         N10205 0 30Vdc
V_V2         N10212 N10233 8V
X_F1    N10233 0 N10205 N10205 SCHEMATIC1_F1 

.subckt SCHEMATIC1_F1 1 2 3 4  
F_F1         3 4 VF_F1 0.4
VF_F1         1 2 0V
.ends SCHEMATIC1_F1
